US04012499
2-Phenylsulphonyl-4-(5-tetrazolyl)benzoic acid (200 mg) was heated with concentrated sulphuric acid (10 ml) for 5 hr. at 120° C. After cooling and dilution with water, a solid product seperated and was filtered off, washed with water, and recrystallised from acetic acid to give 3-(5-tetrazolyl)thioxanthone-10,10-dioxide, identified by its infrared spectrum.

reactant | 2-Phenylsulphonyl-4-(5-tetrazolyl)benzoic acid | 200 mg | C1(=CC=CC=C1)S(=O)(=O)C1=C(C(=O)O)C=CC(=C1)C1=NN=NN1 | C14H10N4O4S
solvent | sulphuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 3-(5-tetrazolyl)thioxanthone-10,10-dioxide | N1N=NN=C1C=1C=CC=2C(C3=CC=CC=C3S(C2C1)(=O)=O)=O | C14H8N4O3S
